US09382265B2
Preparation of 5-chloro-N-(((3S,3aS)-7-(2-(methylsulfonyl)phenyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide (compound 36)
Using compound 5-chloro-N-(((3S,3aS)-1-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide (the product of step (b) in Example 35) (50 mg, 0.102 mmol), o-methylsulfonylbromobenzene (29 mg, 0.122 mmol), tetrakis (triphenylphosphine) palladium (12 mg, 0.010 mmol), and cesium carbonate (66 mg, 0.204 mmol) as starting materials, preparation following the method as described in Example 35 (c) afforded off-white solid 19 mg, yield: 35.2%.

reactant | 5-chloro-N-(((3S,3aS)-1-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)B3OC(C(O3)(C)C)(C)C)=O | C22H24BClN2O6S
reactant | o-methylsulfonylbromobenzene | 0.122 mmol, 29 mg | CS(=O)(=O)C1=C(C=CC=C1)Br | C7H7BrO2S
reactant | cesium carbonate | 0.204 mmol, 66 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.010 mmol, 12 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-chloro-N-(((3S,3aS)-7-(2-(methylsulfonyl)phenyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)thiophene-2-carboxamide | 19 mg, yield: 35.2% | ClC1=CC=C(S1)C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)C3=C(C=CC=C3)S(=O)(=O)C)=O | C23H19ClN2O6S2
